US07612075B2
A round bottom flask is charged with anhydrous THF (8 mL) and LAH (122 mg, 3.17 mmol) is added. The contents are placed under N2 and cooled to 0° C. To this is added a solution of 6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-carboxylic acid ethyl ester (400 mg, 1.51 mmol) in THF (2 ml) over 5 min. The reaction is allowed to come to r.t. and continue to stir for an additional hour. 4 drops of H2O are added, followed by 4 drops of 15% NaOH(aq) and allowed to stir at r.t. for 20 min. 0.5 mL of H2O are added, and the contents are filtered through a pad of celite and washed with THF. The solution is reduced to an oil under vacuum, and purified by flash chromatography on silica gel using 3% methanol/methylene chloride as the eluent to provide (6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-yl)-methanol. 1H NMR (300 MHz, CDCl3) δ 7.95 (d, 1H), 7.29 (dd, 1H), 6.66 (d, 1H), 3.88 (s, 3H), 3.53 (m, 4H), 2.65 (dt, 2H), 1.85 (m, 2H), 1.65 (m, 1H), 1.42 (m, 2H); MS (EI) 222 (M)+.

reactant | LAH | 3.17 mmol, 122 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-carboxylic acid ethyl ester | 1.51 mmol, 400 mg | C(C)OC(=O)C1CCN(CC1)C=1C=NC(=CC1)OC | C14H20N2O3
reactant | H2O | 0.5 mL | O | H2O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
catalyst | H2O | 4 drops | O | H2O
catalyst | NaOH | 4 drops | [OH-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | (6′-methoxy-3,4,5,6-tetrahydro-2H-[1,3′]bipyridinyl-4-yl)-methanol | COC1=CC=C(C=N1)N1CCC(CC1)CO | C12H18N2O2
